Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with hypertension presents today with 
weakness
and "wooziness".  She was seen in our emergency room 3 days
earlier for similar complaints.  She reports that over the past 
5
days, she felt excessively tired and weak.  She was seen by her
PCP on ___ and was told she had a viral infection with an
increased white blood cell count.  She otherwise denies fevers,
chills, nausea, vomiting, chest pain shortness of breath, belly
pain, urinary or bowel symptoms.

In the ED, initial vital signs were 98.3 60 98/46 18 100% on 
room
air.  Orthostatics were positive.
Labs were notable for a BMP with BUN/creatinine of 40/1.1.  CBC
with 8/H of 10.5/30.6.  Electrolytes largely unremarkable. 
Troponin negative ×3.  TSH within normal limits vitamin B12
within normal limits.  CRP elevated at 61.
CT head without acute intracranial process.  CTA head and neck
with patent subclavian, common carotid, internal carotid, and
vertebral arteries.
She received 2 L of IV fluids.

She was evaluated by neurology felt that her clinical
presentation was most likely representing orthostatic
hypotension.  CTA head and neck and noncontrast head CT were
obtained and reassuring without large vessel occlusion or large
territory infarct.  According to neurology, she is chronic
narrowing of her left vertebral artery with distal 
reconstitution
and compensation from her right vertebral artery.  According to
neurology, her neurologic exam localized to the posterior 
column,
which could represent a metabolic etiology (B12 deficiency, TSH)
or from cervical spondylosis.

Upon arrival to the floor, the patient tells the story as
follows.  He reports that approximately 1 week ago, she had an
annual visit with her primary care physician.  After that visit,
she noticed extreme fatigue and no appetite.  Subsequent days
were notable for decreased appetite, desire to constantly lie
down, and lightheadedness without vertigo upon standing.  She
feels she might of had a ___ fever, however never took her
temperature.  Only travel has been to ___ recently, and did not
include any significant hiking or outdoor activities.  She 
denies
sick contacts.  She otherwise denies runny nose, sore throat,
shortness of breath, chest pain, abdominal pain, rash, blood in
stool or urine, numbness, tingling.  She endorses constipation
was chronic for her.  Patient is extremely thirsty and is asking
to drink.

Of note, last year she was told she had prediabetes, at which
time she reports her hemoglobin A1c was 6.4%.  She reports that
she is "extreme" and at that time she cut out all sugar and
became vegetarian.  Since that time she has had a 35 pound
intentional weight loss over the period of ___ year.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Hypertension
- Prediabetes
 
Social History:
___
Family History:
No family history of stroke or seizure, no
history of autoimmune disease
 
Physical Exam:
ADMISSION
VITALS: 98.4 PO 134 / 73 56 18 96 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes very dry
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, ___ to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no swelling of knees or
appreciable effusion, no redness or tenderness to palpation of
bilateral knees, knee flexion 5 out of 5 bilaterally
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE
VS: ___ ___ Temp: 98.0 PO BP: 115/72 R Lying HR: 60 RR: 18
O2 sat: 98% O2 delivery: Ra 
Gen - sitting up in bed, comfortable appearing 
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 01:20PM BLOOD ___ 
___ Plt ___
___ 01:20PM BLOOD ___ 
___
___ 03:35PM BLOOD ___
___ 01:20PM BLOOD ___ cTropnT-<0.01
___ 01:20PM BLOOD ___

WORKUP
___ 03:35PM BLOOD ___
___ 03:35PM BLOOD ___
___ 03:35PM BLOOD ___
___ 05:30PM BLOOD Folate->20
___ 03:35PM BLOOD ___ 
___
___ 03:35PM BLOOD cTropnT-<0.01
___ 05:30PM BLOOD cTropnT-<0.01

DISCHARGE
___ 06:31AM BLOOD ___ 
___ Plt ___
___ 06:31AM BLOOD ___ 
___

CXR
No acute cardiopulmonary abnormality. 
  
CT HEAD W/O CONTRAST
No acute intracranial process.  Hyperdensity along the left 
tentorium is 
unchanged and consistent with dural calcifications. 

CTA Head/Neck
1. No acute intracranial process by unenhanced head CT. Faint
hyperdensity 
along the left tentorium is consistent with dural calcification. 

2. 10% luminal narrowing of the proximal left ICA by NASCET
criteria.  
Otherwise, unremarkable CTA head and neck.  No ___
stenosis, occlusion, 
or aneurysm. 
 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
hypertension, prediabetes, recent dieting with intentional 
weight loss, admitted with 1 week of poor appetite, 3 days of 
dizziness on standing, found to be orthostatic, thought to have 
likely had recent viral syndrome causing dehydration, treated 
with IV fluids and holding of home antihypertensives, with 
resolution of symptoms, able to safely ambulate, discharged 
home.

# Orthostatic Hypotension 
# Dizziness
Patient presented with 3 days of lightheadedness with standing 
in setting of 1 week of poor appetite and malaise.  Neurologic 
workup in ED with reassuring CT head and CTA head/neck, as well 
as neurology consult with a nonfocal neurologic exam.  Workup 
without signs of infection or metabolic derangement/deficiency.  
Vitals were notable for orthostatic hypotension.  Labs showed 
elevated ESR/CRP.  Suspect clinical picture suggests recent 
viral enteritis causing her to take in decreased PO, and get 
dehydrated.  This was likely complicated by her intentional 
weight loss over last 6 months, which may have resulted in her 
being especially sensitive to dehydration in the setting of her 
antihypertensive regimen (chlorthalidone, losartan).  
Antihypertensives were held and patient was given IV fluids 
resuscitation.  Her symptoms resolved over subsequent 48 hours.  
Her loss of appetite resolved and she was able to eat a regular 
diet and demonstrate ability to maintain hydration/nutrition.  
Given normal blood pressures this admission, continued to hold 
losartan and Chlorthalidone at discharge.  Per recommendations 
from neurology, could consider sending zinc level. 

# Hypertension
As above, held losartan and chlorthalidone 

# Hypomagnesemia
Thought to be secondary to poor PO intake.  Repleted.  

# Bilateral knee arthritis 
Held celecoxib given ___, restarted at discharge

Transitional issues
- Discharged home with PCP ___ 
- In setting of her intentional weight loss, may not require 
current antihypertensive regimen; home chlorthalidone and 
losartan were held this admission with subsequently blood 
pressures SBP ___ did not restart either at discharge; 
would consider blood pressure check at ___ and discussion 
re: whether antihypertensive medications are indicated 

> 30 minutes spent on this discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO BID 
2. Celecoxib 200 mg oral BID 
3. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Celecoxib 200 mg oral BID  
2. HELD- Chlorthalidone 25 mg PO DAILY  This medication was 
held. Do not restart Chlorthalidone until you see your primary 
are doctor
3. HELD- Losartan Potassium 100 mg PO BID  This medication was 
held. Do not restart Losartan Potassium until you see your 
primary are doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Orthostatic hypotension 
# Dehydration
# Hypomagnesemia
# Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with dizziness on standing.  You were seen by neurologists and 
underwent testing that was reassuring.  We believe your symptoms 
were caused by dehydration and low blood pressures that happened 
when you stood up ("orthostasis").  You were given IV fluids and 
you improved.  

You are now ready for discharge home.

During this hospital stay, you blood pressure medications were 
stopped.  It will be important for you to see you primary care 
doctor for ___ repeat blood pressure check and discussion about 
if/when these medications should be restarted. 
 
Followup Instructions:
___